US07625903B2
2-{[5-(Methoxy)-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}benzamide
3-[2-(4-Morpholinyl)ethyl]aniline (103 mg; 0.5 mmoles) was dissolved in THF (2 mL) and treated with 1 mL of a solution of 1M HCl in ethyl ether. The mixture was stirred for 5 min and then concentrated in vacuo. The residue was treated with 2-{[2-chloro-5-(methoxy)-4-pyrimidinyl]amino}benzamide (139 mg; 0.5 mmoles) and isopropanol (4 mL). The suspension was stirred in a vial, which was sealed and heated at 100° C. for 24 h. Upon cooling, the solid was collected by filtration, washed with cold isopropanol and dried in vacuo to afford the desired product. MS: (M+H)+=449.

reactant | 3-[2-(4-Morpholinyl)ethyl]aniline | 0.5 mmoles, 103 mg | N1(CCOCC1)CCC=1C=C(N)C=CC1 | C12H18N2O
reactant | HCl | 1M | Cl | ClH
reactant | 2-{[2-chloro-5-(methoxy)-4-pyrimidinyl]amino}benzamide | 0.5 mmoles, 139 mg | ClC1=NC=C(C(=N1)NC1=C(C(=O)N)C=CC=C1)OC | C12H11ClN4O2
reactant | isopropanol | 4 mL | C(C)(C)O | C3H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-{[5-(Methoxy)-2-({3-[2-(4-morpholinyl)ethyl]phenyl}amino)-4-pyrimidinyl]amino}benzamide | COC=1C(=NC(=NC1)NC1=CC(=CC=C1)CCN1CCOCC1)NC1=C(C(=O)N)C=CC=C1 | C24H28N6O3
